US08980887B2
N-ethyl-N-(2-pyridinylmethyl)-2-(3,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetamide.hydrochloride (Compound 8)
According to the method of Example 14, 2-(3,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetic acid and N-(2-pyridinylmethyl)ethylamine were used as raw materials for synthesis, white solid powder, yield 75.5%. m.p. 217-220° C., ESI-MS m/z: 454[M+H]+, 1H NMR(DMSO-d6, 400 MHz)δ: 0.99(t, 1.5H, J=7.00 Hz), 1.25(t, 1.5H, J=7.00 Hz), 2.57(s, 1.5H), 2.60(s, 1.5H), 3.33(q, 1H, J=7.00 Hz), 3.65(q, 1H, J=7.00 Hz), 4.56(s, 1H), 4.59(s, 1H), 4.78(s, 1H), 4.86(s, 1H), 7.40-7.53(m, 1H), 7.54-7.68(m, 2H), 7.78-7.81(m, 1H), 7.89(s, 1H), 7.91-7.95(m, 1H), 8.62-8.67(m, 2H), 8.84-8.86(m, 2H).

reactant | 2-(3,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetic acid | ClC=1C=C(C=CC1Cl)C=1N=C2N(C=CC(=C2)C)C1CC(=O)O | C16H12Cl2N2O2
reactant | N-(2-pyridinylmethyl)ethylamine | N1=C(C=CC=C1)CNCC | C8H12N2
product | N-ethyl-N-(2-pyridinylmethyl)-2-(3,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetamide.hydrochloride | yield 75.5% | Cl.C(C)N(C(CC1=C(N=C2N1C=CC(=C2)C)C2=CC(=C(C=C2)Cl)Cl)=O)CC2=NC=CC=C2 | InChI=1S/C24H22Cl2N4O.ClH/c1-3-29(15-18-6-4-5-10-27-18)23(31)14-21-24(17-7-8-19(25)20(26)13-17)28-22-12-16(2)9-11-30(21)22;/h4-13H,3,14-15H2,1-2H3;1H
